US06432993B1
(35-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-methoxyphenoxy)phenyl}-N -methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(4-methoxyphenoxy)phenyl]-N-methylcarbamate (2.0 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (2.0 g), diethyl cyanophosphonate (1.3 g), triethylamine (0.81 g) and anhydrous tetrahydrofuran (50 ml) and the reaction mixture was purified to give the desired product (3.3 g).

reactant | t-butyl N-[2-amino-5-(4-methoxyphenoxy)phenyl]-N-methylcarbamate | 2.0 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)OC)N(C(OC(C)(C)C)=O)C | C19H24N2O4
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 2.0 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 1.3 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.81 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-methoxyphenoxy)phenyl}-N -methylcarbamate | 3.3 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)OC)N(C(OC(C)(C)C)=O)C)C=C1 | C31H33N3O8S
